US06573270B1
4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide
A mixture of 2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino}-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl}-4-{4-methylphenyl}-1H-pyrazol-3-yl]oxy}ethyl acetate (300 mg) (Preparation 29) and 1.0M sodium hydroxide solution (2 ml) in ethanol (20 ml) was stirred at room temperature overnight. The reaction mixture was evaporated in vacuo and the residue was then diluted with 1.0M citric acid (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a Biotage Flash™ 12i column at 10 psi using 25% ethyl acetate/hexane as eluent to give the title compound as a colourless oil (105 mg).

reactant | 2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino}-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl}-4-{4-methylphenyl}-1H-pyrazol-3-yl]oxy}ethyl acetate | 300 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C42H59N3O8S2Si
reactant | sodium hydroxide | 1.0M, 2 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-hydroxyethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 105 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)OCCO)C1=CC=C(C=C1)C | C30H45N3O5SSi
